US05248447
0.1 mol of 2,3-difluoro-4-(trans-4-pentylcyclohexyl)methoxyphenol, 0.11 mol of butyl bromide and 0.11 mol of potassium carbonate are heated for 16 hours at 100° in 100 ml of dimethylformamide (DMF). After cooling, the inorganic salts are filtered off with suction, the filtrate is concentrated, and water is added. 1-butyloxy-2,3-difluoro-4-(trans-4-pentylcyclohexyl)methoxybenzene is obtained by extraction with dichloromethane.

reactant | 2,3-difluoro-4-(trans-4-pentylcyclohexyl)methoxyphenol | 0.1 mol | FC1=C(C=CC(=C1F)OC[C@@H]1CC[C@H](CC1)CCCCC)O | C18H26F2O2
reactant | butyl bromide | 0.11 mol | C(CCC)Br | C4H9Br
reactant | potassium carbonate | 0.11 mol | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 1-butyloxy-2,3-difluoro-4-(trans-4-pentylcyclohexyl)methoxybenzene | C(CCC)OC1=C(C(=C(C=C1)OC[C@@H]1CC[C@H](CC1)CCCCC)F)F | C22H34F2O2
